US05434186
A mixture of the 2-hydroxy-6-[(5-hydroxypentyl)oxy]benzenepropanoic acid methyl ester from the preceding example (1.4 g; 4.96 mmol), 1.13 g (5.4 mmol) of ethyl 5-bromovalerate, 1.57 g (11.4 mmol) of anhydrous, granular potassium carbonate, and 12 mL of dimethyl sulfoxide was stirred at room temperature for 6 hr. The resulting slurry was filtered with suction and the solids were washed well with ethyl acetate. The filtrate and washed were combined and treated with water. Work-up with ether in the usual manner gave an oily product which was purified by chromatography on silica gel. Elution with 1:3 hexane-ether afforded 1.0 g (49.3%) of 6-[(5-hydroxypentyl)oxy]-2-(5-ethoxy-5-oxopentyloxy)benzenepropanoic acid methyl ester as an oil.

reactant | 2-hydroxy-6-[(5-hydroxypentyl)oxy]benzenepropanoic acid methyl ester | COC(CCC1=C(C=CC=C1OCCCCCO)O)=O | C15H22O5
reactant | ethyl 5-bromovalerate | 5.4 mmol, 1.13 g | BrCCCCC(=O)OCC | C7H13BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 12 mL | CS(=O)C | C2H6OS
product | 6-[(5-hydroxypentyl)oxy]-2-(5-ethoxy-5-oxopentyloxy)benzenepropanoic acid methyl ester | 1.0 g, 49.3% | COC(CCC1=C(C=CC=C1OCCCCCO)OCCCCC(=O)OCC)=O | C22H34O7
